US06320050B1
A solution of 2-[3-cyclopentyl-2-(4-methanesulfonyl-phenyl)-propionylamino]-thiazole-4-carboxylic acid ethyl ester (prepared in Example 3(B)(b), 130 mg, 0.29 mmol) in diethyl ether (2 mL) was cooled to 0° C. and then slowly treated with lithium aluminum hydride (17 mg, 0.44 mmol). The reaction mixture was allowed to warm to 25° C. where it was stirred for 4 h. After 4 h at 25° C., thin layer chromatography indicated the presence of starting material. An additional amount of lithium aluminum hydride (11 mg, 0.29 mmol) was added to the reaction mixture, and the reaction mixture was allowed to stir at 25° C. for 15 h. The reaction mixture was then slowly quenched by the dropwise addition of water. The resulting mixture was partitioned between water and ethyl acetate. The organic layer was dried over magnesium sulfate, filtered, and concentrated in vacuo. Flash chromatography (Merck Silica gel 60, 230-400 mesh, ethyl acetate) afforded 3-cyclopentyl-N-(4-hydroxymethyl-thiazol-2-yl)-2-(4-methanesulfonyl-phenyl)-propionamide (55 mg, 46%) as a white solid: mp 124-126° C.; EI-HRMS m/e calcd for C19H24N2O4S2 (M+) 408.11-78, found 408.1164.

reactant | 2-[3-cyclopentyl-2-(4-methanesulfonyl-phenyl)-propionylamino]-thiazole-4-carboxylic acid ethyl ester | 0.29 mmol, 130 mg | C(C)OC(=O)C=1N=C(SC1)NC(C(CC1CCCC1)C1=CC=C(C=C1)S(=O)(=O)C)=O | C21H26N2O5S2
reactant | lithium aluminum hydride | 0.44 mmol, 17 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | lithium aluminum hydride | 0.29 mmol, 11 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | diethyl ether | 2 mL | C(C)OCC | C4H10O
product | 3-cyclopentyl-N-(4-hydroxymethyl-thiazol-2-yl)-2-(4-methanesulfonyl-phenyl)-propionamide | 55 mg, 46% | C1(CCCC1)CC(C(=O)NC=1SC=C(N1)CO)C1=CC=C(C=C1)S(=O)(=O)C | C19H24N2O4S2
